US06333414B1
Preparation of 2,4,5-triphenyloxazole
1 g of desyl benzoate and 0.5 g of thiourea (2 eq.) are added to 10 ml of dimethylformamide in a reactor. The solution is left stirring at 160° C. for 7 hours.

reactant | desyl benzoate | 1 g | C(C1=CC=CC=C1)(=O)OC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C21H16O3
reactant | thiourea | 0.5 g, 2 eq. | NC(=S)N | CH4N2S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2,4,5-triphenyloxazole | C1(=CC=CC=C1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H15NO
